US07135475B2
A mixture of 1-methyl-1H-pyrazole-4-carboxylic acid (22 mg, 0.17 mmol) in dichloromethane (2.0 mL) at 25° C. was treated with triphenylphosphine (54 mg, 0.21 mmol). This mixture was cooled to 0° C. and then treated with N-chlorosuccinimide (28 mg, 0.21 mmol). This mixture was stirred at 0° C. for 30 min and then was warmed to 25° C. At this time, the reaction was treated with 3-cyclopropylmethyl-1-(2-fluoro-benzyl)-8-(4-methylamino-benzyl)-3,7-dihydro-purine-2,6-dione (150 mg, 0.34 mmol). The reaction was then stirred at 25° C. for 2 days. At this time, the reaction was diluted with dichloromethane and then was washed with a saturated aqueous sodium bicarbonate solution. The organics were dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 3:97 methanol/dichloromethane) afforded 1-methyl-1H-pyrazole-4-carboxylic acid {4-[3-cyclopropylmethyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-methyl-amide (87 mg, 92.8%) as an off-white solid: LR-MS for C29H28FN7O3 (M+H)+ at m/z=542.

reactant | 1-methyl-1H-pyrazole-4-carboxylic acid | 0.17 mmol, 22 mg | CN1N=CC(=C1)C(=O)O | C5H6N2O2
reactant | triphenylphosphine | 0.21 mmol, 54 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-chlorosuccinimide | 0.21 mmol, 28 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 3-cyclopropylmethyl-1-(2-fluoro-benzyl)-8-(4-methylamino-benzyl)-3,7-dihydro-purine-2,6-dione | 0.34 mmol, 150 mg | C1(CC1)CN1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)NC)=O)CC1=C(C=CC=C1)F)=O | C24H24FN5O2
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
product | 1-methyl-1H-pyrazole-4-carboxylic acid {4-[3-cyclopropylmethyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-methyl-amide | 87 mg, 92.8% | C1(CC1)CN1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)N(C(=O)C=1C=NN(C1)C)C)=O)CC1=C(C=CC=C1)F)=O | C29H28FN7O3
